US05773463
(±)cis-1-(2-Benzylphenoxy)-2-dimethylaminoindane Hydrochloride (E13)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (401 mg, 10.6 mmol), cis-1-(2-benzylphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane (453 mg, 1.06 mmol) and tetrahydrofuran (50 ml). After a reaction time of 3 h the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 5% ethanol in chloroform to afford a pale green oil (331 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 222°-225° C. (from methanol-diethyl ether).

reactant | LiAlH4 | 10.6 mmol, 401 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cis-1-(2-benzylphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane | 1.06 mmol, 453 mg | C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=CC=C1 | C28H31NO3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-(2-Benzylphenoxy)-2-dimethylaminoindane Hydrochloride | Cl.C(C1=CC=CC=C1)C1=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C)C)C=CC=C1 | InChI=1S/C24H25NO.ClH/c1-25(2)22-17-19-12-6-8-14-21(19)24(22)26-23-15-9-7-13-20(23)16-18-10-4-3-5-11-18;/h3-15,22,24H,16-17H2,1-2H3;1H/t22-,24+;/m0./s1
